US08084448B2
A. 3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzonitrile
To a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (108.4 mg, 0.243 mmol) in DMF (2 mL) is added KHCO3 (0.488 mL, 0.5M aqueous solution), CuCN (19 mg, 0.212 mmol) and resin-bound PPh3Pd (10 mol %) in DMF (2 mL) and the mixture is heated in a microwave apparatus at 110° C. for 20 min. The solvent is removed under reduced pressure and the residue purified by reverse phase MPLC to give the title compound.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.243 mmol, 108.4 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | CuCN | 0.212 mmol, 19 mg | C(#N)[Cu]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzonitrile | C(C1=CC=CC=C1)OC=1C=C(C#N)C=CC1N1S(NC(C1)=O)(=O)=O | C16H13N3O4S
